US05041679
13.58 Grams of 4-hydroxy-6-(4-trifluoromethylphenylthio)-2-heptanone were dissolved in 150 ml of toluene, and 1.0 g of oxalic acid was added thereto. The resulting mixture was refluxed for 2.5 hours with stirring, allowed to cool and then treated in the same manner as in Production example 34. Thus, 12.65 g of 6-(4-trifluoromethylphenylthio)-3-hepten-2-one (trans : cis =6.7 : 1) was obtained (purity: 95.4%) having an nD21 of 1.5101. The yield was 94.7%.

reactant | 4-hydroxy-6-(4-trifluoromethylphenylthio)-2-heptanone | OC(CC(C)=O)CC(C)SC1=CC=C(C=C1)C(F)(F)F | C14H17F3O2S
reactant | oxalic acid | 1.0 g | C(C(=O)O)(=O)O | C2H2O4
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(4-trifluoromethylphenylthio)-3-hepten-2-one | 12.65 g, yield was 94.7% | FC(C1=CC=C(C=C1)SC(CC=CC(C)=O)C)(F)F | C14H15F3OS
